US07763636B2
5.1 2-(t-butyloxycarbonylamino)-3-methylpyridine
31 g (142.03 mmol) of di-tert-butyl dicarbonate and 35 ml of hexane are placed in a 100 ml three-necked flask equipped with a magnetic stirrer, and are brought to reflux. A solution of 10 g (88.77 mmol) of 2-amino-3-methylpyridine in 10 ml of ethyl acetate is then added dropwise over a period of 2 hours. Refluxing is continued for 1 hour after the end of the addition. After cooling to room temperature, 20 ml of hexane are added and the white precipitate formed after stirring the reaction mixture is collected by filtration, rinsed with hexane and dried under reduced pressure. 15.5 g (74.43 mmol) of white crystals are obtained.

reactant | di-tert-butyl dicarbonate | 142.03 mmol, 31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane | 35 ml | CCCCCC | C6H14
reactant | 2-amino-3-methylpyridine | 88.77 mmol, 10 g | NC1=NC=CC=C1C | C6H8N2
reactant | hexane | 20 ml | CCCCCC | C6H14
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-(t-butyloxycarbonylamino)-3-methylpyridine | 74.43 mmol, 15.5 g | C(C)(C)(C)OC(=O)NC1=NC=CC=C1C | C11H16N2O2
